US08729105B2
Preparation of (S)-6-(4-chlorophenyl)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrazine-2-carboxamide
The title compound was synthesized in analogy to Example 1, using (S)-6-(4-chlorophenyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrazine-2-carboxylic acid (example AG) and C-(3-trifluoromethyl-[1,2,4]oxadiazol-5-yl)-methylamine hydrochloride (CAN 944905-93-5; example AK) as starting materials. MS: 494.0 (M−H)−.

reactant | (S)-6-(4-chlorophenyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrazine-2-carboxylic acid | ClC1=CC=C(C=C1)C1=C(N=CC(=N1)C(=O)O)O[C@H](C(F)(F)F)C | C14H10ClF3N2O3
reactant | C-(3-trifluoromethyl-[1,2,4]oxadiazol-5-yl)-methylamine hydrochloride | Cl.FC(C1=NOC(=N1)CN)(F)F
product | (S)-6-(4-chlorophenyl)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)-5-(1,1,1-trifluoropropan-2-yloxy)pyrazine-2-carboxamide | ClC1=CC=C(C=C1)C1=C(N=CC(=N1)C(=O)NCC1=NC(=NO1)C(F)(F)F)O[C@H](C(F)(F)F)C | C18H12ClF6N5O3
